US08293902B2
A suspension of 4-chloro-6-methoxy-7-(3-(4-methylsulphonylpiperazin-1-yl)propoxy)quinazoline (0.25 g, 0.66 mmol), 5-hydroxy-7-azaindole (0.089 g, 0.663 mmol), (prepared as described for the starting material in Example 2), and potassium carbonate (0.091 g, 0.66 mmol) in DMF (3 ml) was stirred at 85° C. for 3 hours. The mixture was filtered and the filtrate was purified by preparative LCtMS eluting with acetonitrile/water (containing 1% acetic acid). The fractions containing the expected product were combined and evaporated. The residue was dissolved in methylene chloride and washed with 0.5N aqueous ammonia followed by brine, dried (MgSO4) and evaporated. The residue was triturated under diethyl ether, filtered and dried under vacuum to give 4-(7-azaindol-5-yloxy)-6-methoxy-7-(3-(4-methylsulphonylpiperazin-1-yl)propoxy)quinazoline (0.138 g, 45%).

reactant | 4-chloro-6-methoxy-7-(3-(4-methylsulphonylpiperazin-1-yl)propoxy)quinazoline | 0.66 mmol, 0.25 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)S(=O)(=O)C | C17H23ClN4O4S
reactant | 5-hydroxy-7-azaindole | 0.663 mmol, 0.089 g | OC=1C=C2C=CNC2=NC1 | C7H6N2O
reactant | potassium carbonate | 0.66 mmol, 0.091 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 4-(7-azaindol-5-yloxy)-6-methoxy-7-(3-(4-methylsulphonylpiperazin-1-yl)propoxy)quinazoline | 0.138 g, 45% | N1C=CC2=CC(=CN=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)S(=O)(=O)C | C24H28N6O5S
